US08084614B2
A solution of 2N Na2CO3 (5.85 mL) and Pd(PPh3)4 (340 mg, 0.29 mmol) was added to a degassed mixture of 4-chloro-N-(2-methoxy-phenyl)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide (2.2 g, 5.85 mmol) and 2-bromo-3,5-dichloro-pyridine (1.47 g, 6.44 mmol) in toluene (30 mL) and EtOH (6 mL). The mixture was heated at 100° C. for 12 hrs. Upon cooling to room temperature, the mixture was diluted with ethyl acetate and washed with water and brine, and was dried over Na2SO4. After filtration and concentration the mixture was taken up in EtOAc, filtered, washed with EtOAc (3×), MeOH and ether to yield 1.6 g of 4-chloro-3-(3,5-dichloro-pyridin-2-yl)-N-(2-methoxy-phenyl)-benzamide. MS [M+H]+: 406.9; tR=3.03 min. (method 1)

reactant | Na2CO3 | 2N, 5.85 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-chloro-N-(2-methoxy-phenyl)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | 5.85 mmol, 2.2 g | ClC1=C(C=C(C(=O)NC2=C(C=CC=C2)OC)C=C1)B1OC(C(O1)(C)C)(C)C | C20H23BClNO4
reactant | 2-bromo-3,5-dichloro-pyridine | 6.44 mmol, 1.47 g | BrC1=NC=C(C=C1Cl)Cl | C5H2BrCl2N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.29 mmol, 340 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-3-(3,5-dichloro-pyridin-2-yl)-N-(2-methoxy-phenyl)-benzamide | 1.6 g | ClC1=C(C=C(C(=O)NC2=C(C=CC=C2)OC)C=C1)C1=NC=C(C=C1Cl)Cl | C19H13Cl3N2O2
